US07129238B2
The crude 4-bromo-2,6-difluorobenzaldehyde described in example 69.1 was reacted according to general procedure A using ethanol/dioxane as a solvent. The product of this reaction was subsequently coupled with 4-aminomethyl benzonitrile according to general procedure B to give (RS)-2-(4-bromo-2,6-difluoro-phenyl)-N-(4-cyano-benzyl)-2-ethoxy-acetamide. Yellow oil.

reactant | 4-bromo-2,6-difluorobenzaldehyde | BrC1=CC(=C(C=O)C(=C1)F)F | C7H3BrF2O
reactant | 4-aminomethyl benzonitrile | NCC1=CC=C(C#N)C=C1 | C8H8N2
reactant | ethanol dioxane | C(C)O.O1CCOCC1
product | (RS)-2-(4-bromo-2,6-difluoro-phenyl)-N-(4-cyano-benzyl)-2-ethoxy-acetamide | BrC1=CC(=C(C(=C1)F)C(C(=O)NCC1=CC=C(C=C1)C#N)OCC)F | C18H15BrF2N2O2
